US06005116
(a) 5-(4-Benzoylaminophenyl)-3-(2-(N-tert-butoxycarbonylamino)ethoxy)isoxazole
5-(4-Aminophenyl)-3-(2-(N-tert-butoxycarbonylamino)ethoxy)isoxazole (0.1 g) was dissolved in tetrahydrofuran (I ml), and triethylamine (0.05 ml) and benzoyl chloride (0.04 ml) were successively added dropwise thereto at 5° C. under a nitrogen atmosphere, followed by stirring of the resulting mixture at room temperature for 30 minutes. The reaction mixture was poured into ice-cold water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous NaCl solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=3/1) to obtain the title compound (0.08 g, 62%) as a colorless powder.

reactant | 5-(4-Aminophenyl)-3-(2-(N-tert-butoxycarbonylamino)ethoxy)isoxazole | 0.1 g | NC1=CC=C(C=C1)C1=CC(=NO1)OCCNC(=O)OC(C)(C)C | C16H21N3O4
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.04 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(4-Benzoylaminophenyl)-3-(2-(N-tert-butoxycarbonylamino)ethoxy)isoxazole | 0.08 g, 62% | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)C1=CC(=NO1)OCCNC(=O)OC(C)(C)C | C23H25N3O5
